datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](C#N)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].C[Si](C)(C)O[N:12](O[Si](C)(C)C)[C:11](=[CH2:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1>>CC[O:34][C:32]([C:21]([CH:20]([CH2:10][C:11](=[N+:12](O[Si](C)(C)C)O[Si](C)(C)C)[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1)[C:41]1=[CH:42][CH:43]=[C:44](C#N)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:72][C:61](/[CH:10]=[C:11](/C1=CC=CC=C1)[O-:12])=[O:62].CO[C:24](/[N:23]=[N:22]/[C:21](C)=[CH:20]/[C:31](=[O:32])[N:33](C)C)=[O:25]>>CC[O:72][C:61]([CH:10]([C:11](C1=CC=CC=C1)=[O:12])[CH:20]([C:21](C)=[N:22][N:23]=[C:24](OC)[O-:25])[C:31](=[O:32])[N:33](C)C)=[O:62] 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC=C([C+:20]2[S:31]CC[S:41]2)C=C1.[H:10][CH:11]1[CH:12]=[CH:13][CH:14]=[CH:15][CH:16]=[CH:17]1>>C1=CC=C([C:20]2([H:10])[S:31]CC[S:41]2)C=C1.[CH:11]1=[CH:12][CH:13]=[CH:14][CH:15]=[CH:16][CH+:17]1 10,11=10,20;12,13=11,12;14,15=13,14;16,17=15,16"
"C/[C:10](=[C:11]1/[CH:12]=[CH:13]/[C:14](=[N+:15](/[O-:16])[O-:86])[CH:63]=[CH:62]1)[C:71]#[N:72].FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>C[C:10]([C:11]1=[CH:12][CH:13]=[C:14]([N+:15](=[O:16])[O-:86])[CH:63]=[CH:62]1)([CH:20]([C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:71]#[N:72] 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16"
"C[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1.C[N:12]1CCC[N:62](C)[C:11]1=[CH2:10]>>C[N+:12]1=[C:11]([CH2:10][CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[N:62](C)CCC1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=C[C:71]2=[C:72](C=C1)[NH:62][N:61]=[N:10]2.CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](/C[N+]23CCN(CC2)CC3)[C:22](C)=[O:23])[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N+:10]2=[N:61][NH:62][C:72]3=[C:71]2C=CC=C3)[C:21](C[N+]23CCN(CC2)CC3)=[C:22](C)[O-:23])[CH:36]=[CH:35]1 10=20;20,21=21,22;22,23=23"
"C1=CC=C([N:31]=[C:20]=[O:21])C=C1.CC[O:83][P:72]([CH-:10][C:61]#[N:62])(=[O:73])[O:93]CC>>CC[O:83][P:72]([CH:10]([C:20]([O-:21])=[N:31]C1=CC=CC=C1)[C:61]#[N:62])(=[O:73])[O:93]CC 10=20;20,21=21"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].CC[O:82][C:71]([C-:10]([C:61](=[O:62])[O:112]CC)[C:91]1=[CH:92][CH:93]=[C:94]([N+:95](=[O:96])[O-:97])[CH:103]=[CH:102]1)=[O:72]>>CC[O:34][C:32]([C:21]([CH:20]([C:10]([C:61](=[O:62])[O:112]CC)([C:71](=[O:72])[O:82]CC)[C:91]1=[CH:92][CH:93]=[C:94]([N+:95](=[O:96])[O-:97])[CH:103]=[CH:102]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10=20;20,21=21,22;22,23=23"
"CC[O:72][C:61]([CH-:10][C:81](C)=[O:82])=[O:62].Cl[C:21]1([Cl:20])[C:22](=[O:23])[C:36](Cl)=[C:35](Cl)[C:33](Cl)=[C:32]1Cl>>CC[O:72][C:61]([CH:10]([Cl:20])[C:81](C)=[O:82])=[O:62].Cl[C:21]1=[C:22]([O-:23])[C:36](Cl)=[C:35](Cl)[C:33](Cl)=[C:32]1Cl 10=20;20,21=21,22;22,23=23"
"CN(C)C[C@@H]1CCC[NH:10]1.C[C:21]1=[CH:20]CC[C:22]1=[O:23]>>CN(C)C[C@@H]1CCC[NH+:10]1[CH:20]1CC[C:22]([O-:23])=[C:21]1C 10=20;20,21=21,22;22,23=23"
"CC[O:50][C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23].[N:10]1=[CH:11][N-:12][C:61]([N+:72](=[O:73])[O-:83])=[CH:62]1>>CC[O:50][C:22](=[CH:21][CH:20]([N:10]1[CH:11]=[N:12][C:61]([N+:72](=[O:73])[O-:83])=[CH:62]1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([P+:61](C2=CC=CC=C2)(C2=CC=CC=C2)[CH:10]=[C:11]=[N-:12])C=C1.FC(F)(F)[S:20][N:21]1[C:22](=[O:23])C2=C(C=CC=C2)[C:32]1=[O:33]>>C1=CC2=C(C=C1)[C:32](=[O:33])[N:21]=[C:22]2[O-:23].FC(F)(F)[S:20][CH:10]([C:11]#[N:12])[P+:61](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C(O[P+](OC2=CC=CC=C2)(OC2=CC=CC=C2)[Pd-:21]23([P+](OC4=CC=CC=C4)(OC4=CC=CC=C4)OC4=CC=CC=C4)C(C4=CC=CC=C4)C2[CH2:20]3)C=C1.CN(C)C1=CC=C(C[C:10]2=[C:11]([O-:12])[O:82]C(C)(C)[O:72][C:61]2=[O:62])C=C1>>CN(C)C1=CC=C(C[C:10]2([CH2:20]C3C(C4=CC=CC=C4)[Pd-2:21]3([P+](OC3=CC=CC=C3)(OC3=CC=CC=C3)OC3=CC=CC=C3)[P+](OC3=CC=CC=C3)(OC3=CC=CC=C3)OC3=CC=CC=C3)[C:11](=[O:12])[O:82]C(C)(C)[O:72][C:61]2=[O:62])C=C1 10,11=10,20;12=11,12;20,21=21"
"C1[C:63]2=[C:62]([CH:11]([H:10])[C:82]3=[C:83]1[CH:84]=[CH:85][CH:94]=[CH:93]3)[CH:73]=[CH:74][CH:65]=[CH:64]2.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>C1[C:63]2=[C:62]([CH+:11][C:82]3=[C:83]1[CH:84]=[CH:85][CH:94]=[CH:93]3)[CH:73]=[CH:74][CH:65]=[CH:64]2.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20"
